US07678929B2
A mixture of 7,8-difluoro-2H-chromene and 1,2-difluoro-3-prop-2-ynyloxybenzene (43.2 g) is hydrogenated at 20° C. for 1 h in 430 ml of THF in the presence of Pd/C (5% Pd). The batch is concentrated to dryness, and the crude product is purified by column chromatography (SiO2, n-pentane:1-chlorobutane=4:1), giving pure 7,8-difluorochroman as a slightly yellowish liquid.

reactant | 7,8-difluoro-2H-chromene | FC1=CC=C2C=CCOC2=C1F | C9H6F2O
reactant | 1,2-difluoro-3-prop-2-ynyloxybenzene | 43.2 g | FC1=C(C(=CC=C1)OCC#C)F | C9H6F2O
solvent | THF | 430 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 7,8-difluorochroman | FC1=CC=C2CCCOC2=C1F | C9H8F2O
